US04816461
3-Methyl-5-nitro-7-aminobenzothiophene
453 ml of a 20% strength ammonium sulphide solution (1.33 moles of (NH4)2S) are added dropwise to a suspension of 0.4 mole of 3-methyl-5,7-dinitrobenzothiophene in 1,400 ml of ethanol at 55°-60° C. in the course of 45 minutes, and the mixture is then heated at the boiling point for 15 minutes. The mixture is then diluted with 1,400 ml of water and cooled to 0° C. and the crystalline product is filtered off with suction. For purification, the crystals are dissolved in methylene chloride and the solution is filtered over a silica gel column (eluting agent: methylene chloride/cyclohexane 9:11). The substance obtained from the combined eluates is recrystallised from isopropanol.

reactant | ammonium sulphide | 1.33 moles | [NH4+]=S
reactant | 3-methyl-5,7-dinitrobenzothiophene | 0.4 mole | CC1=CSC2=C1C=C(C=C2[N+](=O)[O-])[N+](=O)[O-] | C9H6N2O4S
solvent | ethanol | 1,400 ml | C(C)O | C2H6O
solvent | water | 1,400 ml | O | H2O
product | 3-Methyl-5-nitro-7-aminobenzothiophene | CC1=CSC2=C1C=C(C=C2N)[N+](=O)[O-] | C9H8N2O2S
